US04859662
8-Fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one
3-[(2-Fluorophenyl)amino]-2-cyclohexen-1-one (14.8 g), palladium (II) acetate (1 g), and copper (II) acetate (29.5 g) were heated together in DMF (100 ml) under nitrogen at 140° for 2 h. The solvent was removed in vacuo, and the residue was purified by FCC eluting with ether to give the title compound (10.1 g), m.p. 222°-224°.

reactant | 3-[(2-Fluorophenyl)amino]-2-cyclohexen-1-one | 14.8 g | FC1=C(C=CC=C1)NC1=CC(CCC1)=O | C12H12FNO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper (II) acetate | 29.5 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 8-Fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 10.1 g | FC=1C=CC=C2C=3C(CCCC3NC12)=O | C12H10FNO
